US04259261
Preparation of dichlorhydrate of (2,4-diamino) phenoxypropanol
0.039 mol (9.5 g) of (2,4-dinitro) phenoxypropanol in 30 cm3 of absolute alcohol are reduced on Pd/C at 10% in a bomb under 25 kg of pressure of hydrogen at 70° C. for 1 hour.

reactant | (2,4-dinitro) phenoxypropanol | 0.039 mol, 9.5 g | [N+](=O)([O-])C1=C(OC(CC)O)C=CC(=C1)[N+](=O)[O-] | C9H10N2O6
reactant | hydrogen | [H][H] | H2
product | (2,4-diamino) phenoxypropanol | NC1=C(OC(CC)O)C=CC(=C1)N | C9H14N2O2
